US05284838
a) 6-Diethylphosphono-2,2-dimethyl-2H-chromene
16 g of 6-bromo-2,2-dimethyl-2H-chromene are dissolved in 100 ml of triethyl phosphite. 2 g of nickel chloride are added and the mixture is heated at 180° C. for 24 hours in an autoclave. After the remaining triethyl phosphite has been concentrated, the expected product distils at 130°-140° C. under 133.322 Pa. 11.5 g are collected.

reactant | 6-bromo-2,2-dimethyl-2H-chromene | 16 g | BrC=1C=C2C=CC(OC2=CC1)(C)C | C11H11BrO
reactant | triethyl phosphite | 100 ml | P(OCC)(OCC)OCC | C6H15O3P
catalyst | nickel chloride | 2 g | [Ni](Cl)Cl
product | 6-Diethylphosphono-2,2-dimethyl-2H-chromene | C(C)OP(=O)(OCC)C=1C=C2C=CC(OC2=CC1)(C)C | C15H21O4P
